US07141586B2
4M Hydrochloric acid in dioxan (20 ml, 80 mmol) was added to a solution of the less polar diastereoisomer of tert-butyl 4-hydroxy-4-methylcyclohexylcarbamate (610 mg, 2.66 mmol) in dioxan (5 ml). The mixture was stirred for 3 h then the solvent was removed under reduced pressure and the residue dried in vacuo to afford a single diastereoisomer of 4-amino-1-methylcyclohexanol hydrochloride (625 mg) as a gum.

reactant | Hydrochloric acid | 4M | Cl | ClH
reactant | tert-butyl 4-hydroxy-4-methylcyclohexylcarbamate | 2.66 mmol, 610 mg | OC1(CCC(CC1)NC(OC(C)(C)C)=O)C | C12H23NO3
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 80 mmol, 20 ml | O1CCOCC1 | C4H8O2
product | 4-amino-1-methylcyclohexanol hydrochloride | 625 mg | Cl.NC1CCC(CC1)(O)C | InChI=1S/C7H15NO.ClH/c1-7(9)4-2-6(8)3-5-7;/h6,9H,2-5,8H2,1H3;1H
